US08895547B2
9-Biphenyl-4-yl-6-methoxy-2,5-dioxa-8-thia-7-azaspiro[3.5]non-6-ene 8,8-dioxide
A mixture of 0.17 g of biphenyl-4-yl-(3-hydroxyoxetan-3-yl)methanesulfonamide in 4 ml of tetraethoxymethane and 1 ml of acetic acid was stirred at 90° C. for 3 hours. The solvent was removed under reduced pressure. This gave the crude product, which was used without further purification.

reactant | biphenyl-4-yl-(3-hydroxyoxetan-3-yl)methanesulfonamide | 0.17 g | C1(=CC=C(C=C1)C(S(=O)(=O)N)C1(COC1)O)C1=CC=CC=C1 | C16H17NO4S
reactant | tetraethoxymethane | 4 ml | C(C)OC(OCC)(OCC)OCC | C9H20O4
solvent | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
product | 9-Biphenyl-4-yl-6-methoxy-2,5-dioxa-8-thia-7-azaspiro[3.5]non-6-ene 8,8-dioxide | C1(=CC=C(C=C1)C1S(N=C(OC12COC2)OC)(=O)=O)C2=CC=CC=C2 | C18H17NO5S
